US08604211B2
Preparation of (E)-4-Phenyl-1-(pyridin-3-ylmethylene)-thiosemicarbazide:
4-Phenylthiosemicarbazide (890 mg, 5.3 mmol, 1.0 equiv) was added to a stirred solution of nicotinaldehyde (500 μL, 5.3 mmol, 1.0 equiv) in methanol (2.5 mL) at 23° C. The resulting pale yellow solution was heated to 65° C. and stirred for 3 h. The cooled reaction mixture was concentrated under vacuum. The residue was rinsed with cold ethyl acetate and vacuum-filtered to afford the title compound as off-white crystals (1.3 g, 93%): mp 208-210° C.; IR (KBr thin film) 3442 (w), 3298 (m), 3125 (w), 2940 (w), 2791 (w), 1594 (s), 1532 (s) cm−1; 1H NMR (300 MHz, DMSO-d6) δ 11.98 (s, 1H), 10.22 (s, 1H), 9.03 (d, J=2 Hz, 1H), 8.59 (dd, J=5, 2 Hz, 1H), 8.38 (dt, J=8, 2 Hz, 1H), 8.18 (s, 1H), 7.55 (m, 2H), 7.45 (dd, J=8, 5 Hz, 1H), 7.21 (m, 1H); ESIMS m/z 257 ([M+H]+).

reactant | 4-Phenylthiosemicarbazide | 5.3 mmol, 890 mg, 1.0 equiv | C1(=CC=CC=C1)NC(NN)=S | C7H9N3S
reactant | nicotinaldehyde | 5.3 mmol, 500 μL, 1.0 equiv | C(C1=CN=CC=C1)=O | C6H5NO
solvent | methanol | 2.5 mL | CO | CH4O
product | (E)-4-Phenyl-1-(pyridin-3-ylmethylene)-thiosemicarbazide | 1.3 g, 93% | C1(=CC=CC=C1)NC(N/N=C/C=1C=NC=CC1)=S | C13H12N4S
